US07645776B2
(R)-N-(3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-phenyl)-acetamide
1 mmol (R)-1-{2-[3-(3-Amino-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-2-phenoxy ethanone were dissolved in THF. 2 eq. of DIPEA were added. The reaction was cooled to 0° C. 1 eq. of acetylchloride in THF was added dropwise and the reaction stirred for 30 min. The product was isolated by extraction from ethylactetade/water and subsequent purification via preparative HPLC.

reactant | (R)-1-{2-[3-(3-Amino-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-2-phenoxy ethanone | 1 mmol | NC=1C=C(C=CC1)C1=NOC(=N1)[C@@H]1N(CCCC1)C(COC1=CC=CC=C1)=O | C21H22N4O3
reactant | DIPEA | 2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | acetylchloride | 1 eq. | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | (R)-N-(3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-phenyl)-acetamide | O(C1=CC=CC=C1)CC(=O)N1[C@H](CCCC1)C1=NC(=NO1)C=1C=C(C=CC1)NC(C)=O | C23H24N4O4
